US06441017B1
Step J: (S)-3-Amino-1-[2-bromo-7-(tert-butyldimethylsilyloxy)naphthalen-1-yl]-2-oxopyrrolidine
(S)-1-[2-Bromo-7-(tert-butyldimethylsilyloxy)naphthalen-1-yl]-3-(tert-butoxycarbonylamino)-2-oxopyrrolidine, as described above in Step I, (245 mg, 0.458 mmol) was dissolved in a 10% TFA solution in CH2Cl2 (5 mL). After 30 min, the mixture was poured into saturated aqueous Na2CO3 and extracted with CH2Cl2 (3×). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was chromatographed on silica gel, eluting with a gradient of CH2Cl2—1% to 4% MeOH—0.1% to 0.4% NH4OH, to yield the above-titled compound.

reactant | (S)-1-[2-Bromo-7-(tert-butyldimethylsilyloxy)naphthalen-1-yl]-3-(tert-butoxycarbonylamino)-2-oxopyrrolidine | BrC1=C(C2=CC(=CC=C2C=C1)O[Si](C)(C)C(C)(C)C)N1C([C@H](CC1)NC(=O)OC(C)(C)C)=O | C25H35BrN2O4Si
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-Amino-1-[2-bromo-7-(tert-butyldimethylsilyloxy)naphthalen-1-yl]-2-oxopyrrolidine | N[C@@H]1C(N(CC1)C1=C(C=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)Br)=O | C20H27BrN2O2Si
